US04065471
Under a nitrogen atmosphere, a solution containing 13.0 g. (0.12 mole) of N-methyl-N-propargylacetamide, 5.8 g. of paraformaldehyde, 10.5 g. (0.15 mole) of pyrrolidine and a trace of cuprous chloride in 80 ml. of dioxane was refluxed for 5 hrs. and allowed to stand overnight. The mixture was filtered remaining oil was distilled and redistilled giving N-methyl-N-(4-pyrrolidino-2-butynyl)acetamide, boiling at 120° C. at 0.03 mm.

reactant | N-methyl-N-propargylacetamide | 0.12 mole | CN(C(C)=O)CC#C | C6H9NO
reactant | paraformaldehyde | C=O | CH2O
reactant | pyrrolidine | 0.15 mole | N1CCCC1 | C4H9N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-methyl-N-(4-pyrrolidino-2-butynyl)acetamide | CN(C(C)=O)CC#CCN1CCCC1 | C11H18N2O
